US05703072
8-chloro-11-[(6S,8S)-8-t-butoxy-1,4-diazabicyclo[4.3.0]non-4-yl]-dibenz[b,f]-1,4-thiazepine (0.311 g, 0.704 mmol) was dissolved in trifluoroacetic acid (20 mL) and stirred for 1 hour. The trifluoroacetic acid was removed under reduced pressure and the residue dissolved in methylene chloride (20 mL). Triethylamine (0.142 g, 1.40 mmol) was then added via syringe and the reaction stirred for 1 hour, washed with water, dried (MgSO4) and evaporated to dryness to give 8-chloro-11-[(6S,8S)-8-hydroxy-1,4-diazabicyclo[4.3.0]non-4-yl]-dibenz[b,f]-1,4-thiazepine as an off-white solid (0.197 g, 72%); mp 58°-60° C.; Rf (40% acetone/hexanes): 0.15; HRMS (FAB): MH+ of C20H20N3OSCl, calculated 386.1094, found 386.1085.

reactant | 8-chloro-11-[(6S,8S)-8-t-butoxy-1,4-diazabicyclo[4.3.0]non-4-yl]-dibenz[b,f]-1,4-thiazepine | 0.704 mmol, 0.311 g | ClC1=CC2=C(SC3=C(C(=N2)N2CCN4C[C@H](C[C@H]4C2)OC(C)(C)C)C=CC=C3)C=C1 | C24H28ClN3OS
reactant | Triethylamine | 1.40 mmol, 0.142 g | C(C)N(CC)CC | C6H15N
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 8-chloro-11-[(6S,8S)-8-hydroxy-1,4-diazabicyclo[4.3.0]non-4-yl]-dibenz[b,f]-1,4-thiazepine | 0.197 g, 72% | ClC1=CC2=C(SC3=C(C(=N2)N2CCN4C[C@H](C[C@H]4C2)O)C=CC=C3)C=C1 | C20H20ClN3OS
